### ISSUE TITLE
RFC: calc as a conv tactic

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#3557]
### Proposal

We have a few tactics (`simp`, `rw`…) that can be used in a `conv` block directly, without wrapping them in `tactic =>`. `calc` should be one of them.

My use-case is writing proofs with very explicit `calc` blocks, and wanting to use that to rewrite the goal:
```
example (n : Nat) (P : Nat → Prop) (h : P n): P (0 + 1 * n * 1) := by
  conv => tactic => calc
    P (0 + 1 * n * 1)
    _ = P (0 + n * 1) := (congrArg (fun x => P (0 + x * 1)) (Nat.one_mul n))
    _ = P (0 + n) := (congrArg (fun x => P (0 + x)) (Nat.mul_one n))
    _ = P n := congrArg P (Nat.zero_add n)
  exact h
```
could just be
```
example (n : Nat) (P : Nat → Prop) (h : P n): P (0 + 1 * n * 1) := by
  conv => calc
    P (0 + 1 * n * 1)
    _ = P (0 + n * 1) := (congrArg (fun x => P (0 + x * 1)) (Nat.one_mul n))
    _ = P (0 + n) := (congrArg (fun x => P (0 + x)) (Nat.mul_one n))
    _ = P n := congrArg P (Nat.zero_add n)
  exact h
```

### Community Feedback

The idea came up [on Zulip](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/idiom.20for.20using.20calc.20to.20rewrite.20the.20goal).

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.
